US07829572B2
Preparation of 2-(2-Benzyloxy-phenyl)-5-methoxy-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one
A mixture of 2-(2-benzyloxy-phenyl)-5-chloro-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one, sodium hydride (60% suspension in mineral oil) (1.5 equiv.), and corresponding alcohol (1.5 equiv.) in THF was heated at 70° C. overnight. The reaction was cooled to RT, solvent removed, water and ethyl acetate were added and phases separated. The aqueous phase was washed with ethyl acetate (2×), organic portions combined, washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated. The residue was purified on preparative TLC plate using 1:1 ethyl acetate:heptane.

reactant | 2-(2-benzyloxy-phenyl)-5-chloro-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1N(C(C2=C(N1)C=CN=C2Cl)=O)CCC2=CC=CC=C2 | C28H22ClN3O2
reactant | sodium hydride | 1.5 equiv. | [H-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
product | 2-(2-Benzyloxy-phenyl)-5-methoxy-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1N(C(C2=C(N1)C=CN=C2OC)=O)CCC2=CC=CC=C2 | C29H25N3O3
